US07119201B2
4-(Phenoxy)methoxybenzene
4-(Phenoxy)phenol (9.31 g, 50 mmol) in THF (100 mL) was treated with potassium t-butoxide (6.17 g, 55 mmol) at room temperature for 10 min. Methyl iodide (7.87 g, 55 mmol) was added by syringe. After stirring for 18 h at room temperature the reaction was quenched with saturated ammonium chloride solution and diluted with ethyl ether. The separated organic layer was washed with saturated ammonium chloride solution, dried with magnesium sulfate, filtered and concentrated to give 9.98 g of the title compound as a pale yellow oil. GS-MS (m/z, EI): 200 [M]+.

reactant | 4-(Phenoxy)phenol | 50 mmol, 9.31 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium t-butoxide | 55 mmol, 6.17 g | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 55 mmol, 7.87 g | CI | CH3I
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(Phenoxy)methoxybenzene | 9.98 g | O(C1=CC=CC=C1)COC1=CC=CC=C1 | C13H12O2
